US08138340B2
2-(2-Ethyl-[1,3]dioxolan-2-yl)-2-fluoro-N-hydroxyacetamide
A mixture of 2-(2-ethyl-[1,3]dioxolan-2-yl)fluoroacetic acid methyl ester (1.50 g, 7.80 mmol) and hydroxylamine hydrochloride (1.07 g, 15.6 mmol) were dissolved in pyridine (8 mL). MeONa (30% in MeOH, 3.94 mL, 15.6 mmol) was dropped slowly over 15 min. More pyridine (8 mL) was added. The mixture was stirred for 30 min, then filtered. AcOH (1 mL) was added to the filtrate. The mixture was stirred for 5 min, then the solvents were removed under reduced pressure. Purification by FC (MeOH/CH2Cl2 1:10) yielded the title compound (502 mg, 40%).

reactant | 2-(2-ethyl-[1,3]dioxolan-2-yl)fluoroacetic acid methyl ester | 7.80 mmol, 1.50 g | COC(C(C1(OCCO1)CC)F)=O | C8H13FO4
reactant | hydroxylamine hydrochloride | 15.6 mmol, 1.07 g | Cl.NO
reactant | MeONa | 15.6 mmol, 3.94 mL | CO[Na]
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-Ethyl-[1,3]dioxolan-2-yl)-2-fluoro-N-hydroxyacetamide | 502 mg, 40% | C(C)C1(OCCO1)C(C(=O)NO)F | C7H12FNO4
